US05045558
1.2 g of 4-[1-(1-imidazolyl)-butyl]-benzoic acid is dissolved in 10 ml of dimethylformamide, mixed at 0° C. with 1 ml of N-ethylmorpholine and 1 ml of chloroformic acid isobutyl ester. It is stirred for 30 minutes at 0° C., 2 ml of dimethylamino solution is instilled and stirred for 2 hours at 0° C. It is stirred into 500 ml of water, extracted with ethyl acetate and the organic phase is concentrated by evaporation in a vacuum. The remaining residue is distilled on a bulb tube. Boiling point: 260° C./0.03 mbar. 0.9 g of 4-[1-(1-imidazolyl)butyl]-benzoic acid dimethylamide is obtained.

reactant | 4-[1-(1-imidazolyl)-butyl]-benzoic acid | 1.2 g | N1(C=NC=C1)C(CCC)C1=CC=C(C(=O)O)C=C1 | C14H16N2O2
reactant | N-ethylmorpholine | 1 ml | C(C)N1CCOCC1 | C6H13NO
reactant | chloroformic acid isobutyl ester | 1 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[1-(1-imidazolyl)butyl]-benzoic acid dimethylamide | 0.9 g | CN(C(C1=CC=C(C=C1)C(CCC)N1C=NC=C1)=O)C | C16H21N3O
